US04618692
1-hydroxy-1-[2-[bis-(2-chloroethyl)-amino]-2-oxo-tetrahydro-2-H-1,3,2-oxazaphosphorin-4-yl]-urea
15 g (54 mmol) of 4-hydroxycyclophosphamide (that is to say 2-[bis-(2-chloroethyl)-amino]-4-hydroxytetrahydro-2H-1,3,2-oxazaphosphorin-2-oxide) and 4.4 g (58 mmol) of hydroxyurea were dissolved in 70 ml of DMF, acidified with trichloroacetic acid (pH 3-4) and left for 20 hours at 0° C. in a refrigerator. The resultant crystal sludge was diluted with 70 ml of ethyl acetate and after 2 hours was drawn off by suction, washed, dried and recrystallized from methanol.

reactant | 4-hydroxycyclophosphamide | 54 mmol, 15 g | C1COP(=O)(NC1O)N(CCCl)CCCl | C7H15Cl2N2O3P
reactant | hydroxyurea | 58 mmol, 4.4 g | ONC(=O)N | CH4N2O2
reactant | trichloroacetic acid | pH 3-4 | ClC(C(=O)O)(Cl)Cl | C2HCl3O2
solvent | DMF | 70 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 70 ml | C(C)(=O)OCC | C4H8O2
product | 1-hydroxy-1-[2-[bis-(2-chloroethyl)-amino]-2-oxo-tetrahydro-2-H-1,3,2-oxazaphosphorin-4-yl]-urea | ON(C(=O)N)C1NP(OCC1)(=O)N(CCCl)CCCl | C8H17Cl2N4O4P
